US05459273
Analogously to Example 5, pyrrolidinomethylene-glutacononitrile was cyclized with HCl gas. 2-Chloro-5-cyanopyridine was obtained in 83.3% of the theoretical yield.

reactant | pyrrolidinomethylene-glutacononitrile | N1(CCCC1)C=C(C=CC#N)C#N | C10H11N3
reactant | HCl | Cl | ClH
product | 2-Chloro-5-cyanopyridine | ClC1=NC=C(C=C1)C#N | C6H3ClN2
